US06235789B1
1-(2-Bromoethyl)-6-methoxyindan
To a solution of 1-(2-hydroxyethyl)-6-methoxyindan (4.95 g, 25.7 mmol) in dichloromethane (100 ml) was added dropwise at −5° C. phosphorus tribromide (0.86 ml, 2084 27.0 mmol). The mixture was stirred for 30 minutes. To the reaction mixture was added water, which was subjected to extraction with chloroform. The extract solution was washed with brine and dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (hexane/ethyl acetate, 7:3→1:1) to give 1.80 g (yield 27%) of the above-titled compound as an oily product.

reactant | 1-(2-hydroxyethyl)-6-methoxyindan | 25.7 mmol, 4.95 g | OCCC1CCC2=CC=C(C=C12)OC | C12H16O2
reactant | phosphorus tribromide | 27.0 mmol, 0.86 ml | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(2-Bromoethyl)-6-methoxyindan | 1.80 g, yield 27% | BrCCC1CCC2=CC=C(C=C12)OC | C12H15BrO
